US05134111
(d) Preparation of 1-benzyloxy-2-isopropenyl-8 methylnaphthalene
1.8 g of 1-(1-benzyloxy-8-methyl-2-naphthyl)-1-methyl-1-ethanol was dissolved in 20 ml of tetrahydrofuran, to which 30 ml of 3N hydrochloric acid was added, followed by refluxing for 2 hours. The reaction solution was returned to room temperature, to which water was added, followed by extraction with ethyl acetate. The resultant organic phase was washed with a saturated saline solution, dried with anhydrous magnesium sulfate and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (4% ethyl acetate/hexane) to obtain 1.0 g of the captioned compound as a yellowish green oily substance.

reactant | 1-(1-benzyloxy-8-methyl-2-naphthyl)-1-methyl-1-ethanol | 1.8 g | C(C1=CC=CC=C1)OC1=C(C=CC2=CC=CC(=C12)C)C(C)(O)C | C21H22O2
reactant | water | O | H2O
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | hydrochloric acid | 3N, 30 ml | Cl | ClH
product | 1-benzyloxy-2-isopropenyl-8 methylnaphthalene | 1.0 g | C(C1=CC=CC=C1)OC1=C(C=CC2=CC=CC(=C12)C)C(=C)C | C21H20O
